data/polar.json
{"reaction_name": "Mukaiyama–Michael addition", "rsmi": "[C:6]([CH3:9])([CH:10]=[CH2:8])=[O:11].[O:1]([Si:2]([CH3:3])([CH3:4])[CH3:5])[C:13](=[CH2:7])[CH3:12]>>[O:1]=[C:13]([CH2:7][CH2:8][CH:10]=[C:6]([CH3:9])[O-:11])[CH3:12].[Si+:2]([CH3:3])([CH3:4])[CH3:5]", "epd": [["Pi-/Sigma+", [7, 13], [7, 8]], ["Pi-/LP+", [8, 10], [10]], ["LP-/Pi+", [10], [6, 10]], ["Pi-/LP+", [6, 11], [11]], ["LP-/Pi+", [1], [1, 13]], ["Sigma-/LP+", [1, 2], [1]]]}
{"reaction_name": "General nucleophilic 1,2-addition to a neutral carbonyl", "rsmi": "[CH:1]([C:12](=[O:13])[c:15]1[cH:2][cH:23][c:14]([N:22]([CH3:16])[CH3:17])[cH:24][cH:3]1)=[S:27]([CH3:8])[CH3:9].[Cl:4][C:20]1=[C:25]([Cl:18])[C:7](=[O:11])[C:6](=[O:10])[C:26]([Cl:19])=[C:21]1[Cl:5]>>[CH:1]([C:6]1([O-:10])[C:7](=[O:11])[C:25]([Cl:18])=[C:20]([Cl:4])[C:21]([Cl:5])=[C:26]1[Cl:19])([C:12](=[O:13])[c:15]1[cH:2][cH:23][c:14]([N:22]([CH3:16])[CH3:17])[cH:24][cH:3]1)[S+:27]([CH3:8])[CH3:9]", "epd": [["Pi-/Sigma+", [1, 27], [1, 6]], ["Pi-/LP+", [6, 10], [10]]]}
{"reaction_name": "Oxa-Michael–aldol sequence", "rsmi": "[C:2]([C:4](=[O:7])[CH3:8])(=[CH2:6])[H:11].[O-:3][CH3:5].[O:1]([H:9])[H:10]>>[C:2]([C:4](=[O:7])[CH3:8])([CH2:6][O:3][CH3:5])([H:9])[H:11].[O-:1][H:10]", "epd": [["LP-/Sigma+", [3], [3, 6]], ["Pi-/Sigma+", [2, 6], [2, 9]], ["Sigma-/LP+", [1, 9], [1]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[c:4]1([P:37]([c:5]2[cH:17][cH:23][c:39]([N:14]([CH3:30])[CH3:31])[cH:24][cH:18]2)[c:6]2[cH:19][cH:25][c:40]([N:15]([CH3:32])[CH3:33])[cH:26][cH:20]2)[cH:16][cH:22][c:38]([N:13]([CH3:28])[CH3:29])[cH:27][cH:21]1.[cH:1]1[c:7]([N+:34](=[O:10])[O-:42])[cH:2][c:8]([N+:35](=[O:11])[O-:41])[cH:3][c:9]1[N+:36](=[O:12])[O-:43]>>[CH:1]1([P+:37]([c:4]2[cH:16][cH:22][c:38]([N:13]([CH3:28])[CH3:29])[cH:27][cH:21]2)([c:5]2[cH:17][cH:23][c:39]([N:14]([CH3:30])[CH3:31])[cH:24][cH:18]2)[c:6]2[cH:19][cH:25][c:40]([N:15]([CH3:32])[CH3:33])[cH:26][cH:20]2)[C:7](=[N+:34]([O-:10])[O-:42])[CH:2]=[C:8]([N+:35](=[O:11])[O-:41])[CH:3]=[C:9]1[N+:36](=[O:12])[O-:43]", "epd": [["LP-/Sigma+", [37], [37, 1]], ["Pi-/Pi+", [1, 7], [7, 34]], ["Pi-/LP+", [34, 10], [10]]]}
{"reaction_name": "Dearomatizing addition to an azaarenium / acridinium ion", "rsmi": "[O-:6][c:7]1[cH:16][cH:11][c:13]([CH3:9])[cH:12][cH:17]1.[n+:1]1([CH3:10])[c:2]2[cH:14][cH:20][cH:18][cH:4][c:22]2[cH:8][c:23]2[c:3]1[cH:15][cH:21][cH:19][cH:5]2>>[N:1]1([CH3:10])[c:2]2[cH:14][cH:20][cH:18][cH:4][c:22]2[CH:8]([O:6][c:7]2[cH:16][cH:11][c:13]([CH3:9])[cH:12][cH:17]2)[c:23]2[c:3]1[cH:15][cH:21][cH:19][cH:5]2", "epd": [["LP-/Sigma+", [6], [6, 8]], ["Pi-/Pi+", [8, 22], [22, 2]], ["Pi-/LP+", [2, 1], [1]]]}
{"reaction_name": "Neighboring-group-assisted proton transfer", "rsmi": "[O-:1][CH2:4][c:3]1[cH:5][cH:7][n+:2]([H:9])[cH:8][cH:6]1>>[O:1]([CH2:4][c:3]1[cH:5][cH:7][n:2][cH:8][cH:6]1)[H:9]", "epd": [["LP-/Sigma+", [1], [1, 9]], ["Sigma-/LP+", [2, 9], [2]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]([CH:10]1[N+:20](=[CH:4][CH:33]=[CH:11][c:26]2[cH:5][cH:21][cH:3][cH:22][cH:6]2)[CH:17]([CH2:34][c:30]2[cH:35][cH:15][cH:23][cH:16][cH:36]2)[C:25](=[O:7])[N:31]1[CH3:24])([CH3:27])([CH3:28])[CH3:29].[c:2]1([CH:18]=[N+:14]=[N-:32])[cH:12][cH:8][cH:19][cH:9][cH:13]1>>[C:1]([CH:10]1[N:20]([CH:4]=[CH:33][CH:11]([CH:18]([c:2]2[cH:12][cH:8][cH:19][cH:9][cH:13]2)[N+:14]#[N:32])[c:26]2[cH:5][cH:21][cH:3][cH:22][cH:6]2)[CH:17]([CH2:34][c:30]2[cH:35][cH:15][cH:23][cH:16][cH:36]2)[C:25](=[O:7])[N:31]1[CH3:24])([CH3:27])([CH3:28])[CH3:29]", "epd": [["LP-/Pi+", [32], [14, 32]], ["Pi-/Sigma+", [18, 14], [18, 11]], ["Pi-/Pi+", [11, 33], [33, 4]], ["Pi-/LP+", [4, 20], [20]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:3](#[N:10])[C:15]([C:4]#[N:11])=[CH:5][c:19]1[cH:8][cH:13][cH:21][cH:14][cH:9]1.[cH:1]1[c:17]2[cH:16][cH:7][cH:2][cH:12][c:20]2[cH-:6][cH:18]1>>[CH:1]1=[CH:18][CH:6]([CH:5]([C:15](=[C:3]=[N-:10])[C:4]#[N:11])[c:19]2[cH:8][cH:13][cH:21][cH:14][cH:9]2)[c:20]2[cH:12][cH:2][cH:7][cH:16][c:17]21", "epd": [["LP-/Sigma+", [6], [6, 5]], ["Pi-/Pi+", [5, 15], [15, 3]], ["Pi-/LP+", [3, 10], [10]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[C:1]([O:13][C:31](=[O:9])[N:24]=[CH:12][c:8]1[cH:4][cH:14][cH:23][cH:15][cH:5]1)([CH3:25])([CH3:26])[CH3:27].[CH3:2][CH:11]([CH3:3])[N+:18]1=[N:19][N:17]([CH:6]([CH3:20])[CH3:21])[C:22](=[CH2:16])[C-:7]1[C:10]([CH3:28])([CH3:29])[CH3:30]>>[C:1]([O:13][C:31]([O-:9])=[N:24][CH:12]([c:8]1[cH:4][cH:14][cH:23][cH:15][cH:5]1)[CH2:16][c:22]1[c:7]([C:10]([CH3:28])([CH3:29])[CH3:30])[n+:18]([CH:11]([CH3:2])[CH3:3])[n:19][n:17]1[CH:6]([CH3:20])[CH3:21])([CH3:25])([CH3:26])[CH3:27]", "epd": [["LP-/Pi+", [7], [22, 7]], ["Pi-/Sigma+", [16, 22], [16, 12]], ["Pi-/Pi+", [12, 24], [24, 31]], ["Pi-/LP+", [31, 9], [9]]]}
